US08217064B2
Cyclopropyl methanol (15 g, 207 mmol) was added to a stirred suspension of NaH (60% in mineral oil, 8.37 g) in 200 mL THF over a period of 15 min at 0° C. under an atmosphere of nitrogen. The reaction mixture was allowed to warm to room temperature and stirred for 1 h at RT. The mixture was cooled to 0° C. and a solution of 2,4-difluoro-1-nitrobenzene (30 g, 187 mmol) in 200 mL THF was added in a drop wise manner. The reaction mixture was stirred at 0° C. for 2 h and then poured onto ice water. The mixture was extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give 22.0 g of 2-(cyclopropylmethoxy)-4-fluoro-1-nitrobenzene as an orange oil (86%).

reactant | Cyclopropyl methanol | 207 mmol, 15 g | C1(CC1)CO | C4H8O
reactant | NaH | 8.37 g | [H-].[Na+]
reactant | 2,4-difluoro-1-nitrobenzene | 187 mmol, 30 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-(cyclopropylmethoxy)-4-fluoro-1-nitrobenzene | 22.0 g, 86% | C1(CC1)COC1=C(C=CC(=C1)F)[N+](=O)[O-] | C10H10FNO3
